* SpiceNetList
* 
* Exported from UBTB_MIX._spicesch.sch at 2020/3/27 下午 02:22
* 
* EAGLE Version 9.4.2 Copyright (c) 1988-2019 Autodesk, Inc.
* 
.TEMP=25.0

* --------- .OPTIONS ---------
.OPTIONS ABSTOL=1e-12 GMIN=1e-12 PIVREL=1e-3 ITL1=100 ITL2=50 PIVTOL=1e-13 RELTOL=1e-3 VNTOL=1e-6 CHGTOL=1e-15 ITL4=10 METHOD=TRAP SRCSTEPS=0 TRTOL=7 NODE

* --------- .PARAMS ---------

* --------- devices ---------
R_R45 N_108 0 10K 
R_R57 BOUT- N_42 20 
Q_Q4 N_9 N_7 N_6 2SA1312 
R_R42 N_110 N_111 1K 
Q_Q9 V+ UOUT- N_32 2SC3324 
R_R26 N_35 N_30 300 
V_V1 IN+ 0 DC 0V AC 1V SIN(0 1 100 0 0) 
R_R13 N_20 BOUT+ 20 
R_R46 0 N_119 10K 
R_R28 N_29 N_36 300 
Q_Q16 V- N_37 N_42 2SA1312 
Q_Q36 N_110 N_108 N_109 2SA1312 
Q_Q30 N_96 N_97 N_93 2SC3324 
R_R38 UOUT- 0 1K3 
D_LED1 N_97 V- LED_1.7VRED 
R_R41 N_110 N_112 1K 
Q_Q39 N_102 IN+ N_115 2SC3324 
R_R49 BOUT- N_42 20 
Q_Q8 V+ N_16 N_20 2SC3324 
Q_Q37 UOUT+ N_98 N_96 2SC3324 
R_R24 N_30 N_32 10 
Q_Q38 N_104 IN- N_116 2SC3324 
R_R55 N_38 BOUT- 20 
R_R58 BOUT- N_39 20 
R_R8 N_17 N_10 300 
Q_Q13 V+ N_34 N_38 2SC3324 
R_R18 N_25 V- 250 
R_R12 BOUT+ N_18 20 
Q_Q26 N_117 N_119 N_118 2SC3324 
Q_Q40 N_104 N_103 N_106 2SA1312 
R_R27 N_37 N_30 300 
R_R11 N_14 BOUT+ 20 
R_R31 BOUT- N_39 20 
Q_Q35 N_96 IN+ N_112 2SA1312 
D_LED5 V+ N_7 LED_1.7VRED 
D_LED6 N_8 V- LED_1.7VRED 
R_R36 V+ N_106 250 
Q_Q2 V- UOUT+ N_4 2SA1312 
D_LED3 V+ N_108 LED_1.7VRED 
Q_Q10 V- UOUT- N_31 2SA1312 
R_R35 V+ N_105 250 
Q_Q11 N_30 N_28 N_25 2SC3324 
R_R25 N_29 N_34 300 
R_R23 N_94 V- 250 
R_R15 V+ N_26 250 
R_R20 N_33 N_28 10K 
R_R33 N_101 0 10K 
Q_Q14 V+ N_36 N_41 2SC3324 
Q_Q15 V- N_35 N_39 2SA1312 
R_R1 V+ N_6 250 
Q_Q7 V- N_15 N_21 2SA1312 
Q_Q32 UOUT- N_98 N_95 2SC3324 
R_R29 N_98 N_97 10K 
R_R34 N_103 N_101 10K 
R_R47 N_41 BOUT- 20 
Q_Q31 N_95 N_97 N_94 2SC3324 
R_R22 N_93 V- 250 
C_C2 0 V+ 0.0001 
R_R30 N_38 BOUT- 20 
R_R50 N_14 BOUT+ 20 
R_R44 N_118 V- 250 
R_R14 BOUT+ N_21 20 
R_R54 BOUT+ N_21 20 
R_R10 N_9 N_16 300 
R_R53 BOUT+ N_18 20 
D_LED2 V+ N_103 LED_1.7VRED 
R_R43 V+ N_109 250 
Q_Q6 V- N_17 N_18 2SA1312 
R_R6 N_10 N_11 10 
D_LED7 V+ N_27 LED_1.7RED 
V_V2 IN- 0 DC 0V AC 1V SIN(0 1 100 0 180) 
R_R9 N_15 N_10 300 
R_R5 N_4 N_9 10 
C_C3 V- 0 0.0001 
R_R4 N_12 N_8 10K 
R_R52 N_20 BOUT+ 20 
R_R32 0 N_98 10K 
Q_Q41 UOUT- N_101 N_104 2SA1312 
Q_Q29 N_102 N_103 N_105 2SA1312 
R_R56 N_41 BOUT- 20 
R_R37 UOUT+ 0 1K3 
Q_Q5 V+ N_13 N_14 2SC3324 
R_R19 N_27 N_33 10K 
R_R2 N_5 V- 250 
Q_Q34 N_95 IN- N_111 2SA1312 
R_R7 N_9 N_13 300 
R_R40 N_116 N_117 1K 
R_R21 N_31 N_29 10 
R_R39 N_115 N_117 1K 
C_C5 0 V+ 0.0001 
Q_Q3 N_10 N_8 N_5 2SC3324 
Q_Q12 N_29 N_27 N_26 2SA1312 
Q_Q33 UOUT+ N_101 N_102 2SA1312 
D_LED8 N_28 V- LED_1.7VRED 
Q_Q1 V+ UOUT+ N_11 2SC3324 
C_C6 V- 0 0.0001 
R_R3 N_7 N_12 10K 
D_LED4 N_119 V- LED_1.7VRED 

* --------- models ---------

* model file: C:/Audio/Vwvwbg_Audio_Pcb/UbalToBal/2SC3324.mdl
**********************
* Autodesk EAGLE - SPICE Model File
* Author:
* Date: 
**********************
.MODEL 2SC3324_BJT NPN(
+ LEVEL = 1
+ IS = 1.3e-013
+ BF = 475
+ NF = 1
+ VAF = 200
+ IKF = 0.2
+ ISE = 3.5e-014
+ NE = 1.3
+ BR = 28
+ NR = 1
+ VAR = 10
+ IKR = 0.004
+ ISC = 1.5e-010
+ NC = 1.5
+ NK = 0.5
+ RE = 0.25
+ RB = 2
+ RC = 0.02
+ CJE = 3.0625e-011
+ VJE = 0.75
+ MJE = 0.33
+ CJC = 4.9687e-012
+ VJC = 0.9247
+ MJC = 0.1914
+ FC = 0.5
+ TF = 3e-010
+ XTF = 50
+ VTF = 5
+ ITF = 0.1
+ PTF = 0
+ TR = 10E-09
+ EG = 1.11
+ XTB = 1.5
+ XTI = 4
+ TRC1 = 0.05
+ TNOM = 25)


* model file: C:/Audio/Vwvwbg_Audio_Pcb/UbalToBal/2SA1312.mdl
**********************
* Autodesk EAGLE - SPICE Model File
* Author:
* Date: 
**********************
.MODEL 2SA1312_BJT PNP(
+ LEVEL = 1
+ IS = 2e-013
+ BF = 415
+ NF = 1
+ VAF = 60
+ IKF = 0.2
+ ISE = 1.05e-009
+ NE = 5
+ BR = 10
+ NR = 1.02
+ VAR = 8
+ IKR = 0.0001
+ ISC = 1.5e-011
+ NC = 1.3
+ NK = 0.5
+ RE = 0.5
+ RB = 0.2
+ RC = 2
+ CJE = 10E-012
+ VJE = 0.75
+ MJE = 0.33
+ CJC = 1.0176e-011
+ VJC = 0.79167
+ MJC = 0.319
+ FC = 0.5
+ TF = 900E-012
+ XTF = 10
+ VTF = 2
+ ITF = 500E-003
+ PTF = 0
+ TR = 10E-09
+ EG = 1.11
+ XTB = 1.55
+ XTI = 3
+ TRC1 = 0.005
+ TNOM = 25)


* model file: C:/Audio/Vwvwbg_Audio_Pcb/UbalToBal/LED_1.7VRED.mdl
**********************
* Autodesk EAGLE - SPICE Model File
* Author:
* Date: 
**********************
*Typ RED GaAs LED: Vf=1.7V Vr=4V If=40mA trr=3uS
.MODEL LED1 D (IS=93.2P RS=42M N=3.73 BV=4 IBV=10U
+ CJO=2.97P VJ=.75 M=.333 TT=4.32U)


* model file: C:/Users/vwvwb/Documents/EAGLE/spice/LED_1.7RED.mdl
**********************
* Autodesk EAGLE - SPICE Model File
* Author:
* Date: 
**********************
*Typ RED GaAs LED: Vf=1.7V Vr=4V If=40mA trr=3uS
.MODEL LED1 D (IS=93.2P RS=42M N=3.73 BV=4 IBV=10U
+ CJO=2.97P VJ=.75 M=.333 TT=4.32U)


* --------- simulation ---------


.control
set filetype=ascii
TRAN 0.2 100 0 0.2 
write UBTB_MIX._spicesch.sch.sim I(V_V1) I(V_V2)
.endc

.END










